US04753953
(3S)-10-(cis-3-t-Butoxycarbonylamino-4-methyl-1-pyrrolidinyl)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid
A mixture of (3S)-9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid (0.5 g), anhydrous dimethyl sulfoxide (10 ml) and cis-3-t-butoxycarbonylamino-4-methylpyrrolidine (0.54 g) was stirred for 2 hours at 90°-100° C. and then concentrated. The resulting residue was dissolved in chloroform and the solution was washed with 10% aqueous citric acid solution further washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated. The resulting precipitate was triturated in methanol and collected by filtration to give the title compound (0.67 g) as yellowish powder, mp 206°-207° C.

reactant | (3S)-9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 0.5 g | FC=1C(=C2C=3N([C@H](CO2)C)C=C(C(C3C1)=O)C(=O)O)F | C13H9F2NO4
reactant | cis-3-t-butoxycarbonylamino-4-methylpyrrolidine | 0.54 g | C(C)(C)(C)OC(=O)N[C@@H]1CNC[C@@H]1C | C10H20N2O2
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | (3S)-10-(cis-3-t-Butoxycarbonylamino-4-methyl-1-pyrrolidinyl)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 0.67 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]1C)C=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)O)F | C23H28FN3O6
